US08486952B2
To a stirred mixture of phenylboronic acid (16.81 g, 138 mmol), trans-2-Aminocyclohexanol hydrochloride (1.393 g, 9.19 mmol), and Nickel(II) chloride hexahydrate (1.092 g, 4.59 mmol) in THF (92 mL) at 0° C. was added Sodium bis(trimethylsilyl)amide (1.0 M in THF) (184 mL, 184 mmol) dropwise over 10 min. When the addition was complete, the reaction mixture was sparged with N2 for 15 min. To the reaction mixture at 0° C. was then added 2-Propanol (375 mL)(previously sparged with N2). The resulting mixture was allowed to come to RT at which time 3-iodo-4,4-dimethoxytetrahydro-2H-pyran (Intermediate I(1)) (25 g, 92 mmol) was added dropwise over 5 min. The reaction mixture was then brought to 60° C. and stirred overnight. The reaction mixture was then cooled to 0° C. and quenched by the careful addition of aqu. 1 N HCl until acidic. The resulting mixture was extracted with EtOAc (3×150 mL). The combined organic extracts were washed with Brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (Silica, EtOAc/Hexanes) gave 3-phenyldihydro-2H-pyran-4(3H)-one (8.37 g, 47.5 mmol, 51.7% yield) as a slightly orange oil. 1H NMR (500 MHz, CDCl3) δ ppm 7.32-7.39 (2H, m), 7.26-7.31 (1H, m), 7.21-7.26 (2H, m), 4.17-4.31 (2H, m), 3.91-4.05 (2H, m), 3.78 (1H, dd, J=8.55, 6.10 Hz), 2.61-2.74 (1H, m), 2.51-2.61 (1H, m).

reactant | phenylboronic acid | 138 mmol, 16.81 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | trans-2-Aminocyclohexanol hydrochloride | 9.19 mmol, 1.393 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | Sodium bis(trimethylsilyl)amide | 184 mmol, 1.0 M, 184 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-iodo-4,4-dimethoxytetrahydro-2H-pyran | 92 mmol, 25 g | IC1COCCC1(OC)OC | C7H13IO3
solvent | THF | 92 mL | C1CCOC1 | C4H8O
catalyst | Nickel(II) chloride hexahydrate | 4.59 mmol, 1.092 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-phenyldihydro-2H-pyran-4(3H)-one | 47.5 mmol, 8.37 g, 51.7% yield | C1(=CC=CC=C1)C1COCCC1=O | C11H12O2
